US07700522B2
A solution of sodium nitrite (16.5 g, 0.24 mol) in 50 ml of water is slowly added to a mechanically stirred, acetone-dry ice cooled suspension of p-toluidine (23.5 g, 0.22 mol), 250 ml of acetone and 50 ml of concentrated hydrochloric acid in such manner, that the reaction temperature does not exceed +5° C. The mixture is stirred for 1 hour at +5° C. and then 100 ml of methyl acrylate are added. The suspension is then warmed to +30° C. Copper(I) iodide (1 g, 5 mmol) is added portionwise over 30 minutes such that the temperature of the reaction mixture does not exceed +35° C., and the stirring is continued for an additional 30 minutes at this temperature. The solvent is evaporated under reduced pressure, the residue is diluted with water and extracted with dichloromethane. The combined organic layer is washed with water, dried over magnesium sulfate and evaporated. The residue is purified by chromatography on silica gel (ethyl acetate/hexane 9:1) to obtain 2-chloro-3-p-tolyl-propionic acid methyl ester.

reactant | sodium nitrite | 0.24 mol, 16.5 g | N(=O)[O-].[Na+]
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | p-toluidine | 0.22 mol, 23.5 g | NC1=CC=C(C=C1)C | C7H9N
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | methyl acrylate | 100 ml | C(C=C)(=O)OC | C4H6O2
solvent | water | 50 ml | O | H2O
catalyst | Copper(I) iodide | 5 mmol, 1 g | [Cu]I
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 2-chloro-3-p-tolyl-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)C)Cl)=O | C11H13ClO2
